US07649197B2
3.1 g (10 mmol) of 9-(4-biphenylyl)carbazole was dissolved in 100 mL of chloroform, and 1.8 g (10 mmol) of N-bromosuccinimide was added thereto slowly. The mixture was stirred overnight (for about 24 hours) and then washed with water. Magnesium sulfate was added thereto to remove water and it was filtered. The filtrate was concentrated, collected, and dried. 3.7 g (yield: 95%) of 3-bromo-9-(4-biphenylyl)carbazole, which was beige powder, was obtained.

reactant | 9-(4-biphenylyl)carbazole | 10 mmol, 3.1 g | C1(=CC=C(C=C1)N1C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1 | C24H17N
reactant | N-bromosuccinimide | 10 mmol, 1.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-bromo-9-(4-biphenylyl)carbazole | 3.7 g, yield: 95% | BrC=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=C(C=C1)C1=CC=CC=C1 | C24H16BrN
